US07834021B2
Ethyl 3-(fluoromethyl)pyrrolidine-3-carboxylate.
To a solution of 1.27 g (4.8 mmol) of ethyl 1-benzyl-3-(fluoromethyl)pyrrolidine-3-carboxylate in 20 mL of methanol was added 500 mg of Pd/C (10% on carbon) and 1.5 g (24 mmol) of HCOONH4. The reaction mixture was refluxed for 1 h, filtered through celite pad and evaporated to give a residue. The residue was then dissolved in ethyl acetate, the resulting solution was washed with saturated NaHCO3 aqueous solution, brine, dried over Na2SO4, evaporated to give the final crude product (426 mg, 2,4 mmol, yield: 50%): MS (m/e): 176 (M+H)+.

reactant | ethyl 1-benzyl-3-(fluoromethyl)pyrrolidine-3-carboxylate | 4.8 mmol, 1.27 g | C(C1=CC=CC=C1)N1CC(CC1)(C(=O)OCC)CF | C15H20FNO2
reactant | HCOONH4 | 24 mmol, 1.5 g | C(=O)[O-].[NH4+]
solvent | methanol | 20 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | Ethyl 3-(fluoromethyl)pyrrolidine-3-carboxylate | 2,4 mmol, 426 mg, yield: 50% | FCC1(CNCC1)C(=O)OCC | C8H14FNO2
